US07199239B2
Intermediate 70: 2,4′-Dimethyl-1,1′-biphenyl-3-ylamine
To a solution of 3-bromo-2-methylaniline (15 g, 0.0806 mol) in 1,2-dimethoxyethane (330 ml) and water (165 ml) was added 4-methylphenylboronic acid (12.05 g, 0.0886 mol) and sodium carbonate (22.2 g, 0.2095 mol). The apparatus was flushed with nitrogen prior to the addition of tetrakis(triphenylphosphine) palladium (0) (1.86 g, 1.61 mmol). The resultant mixture was heated at 90° C. and stirred under nitrogen for 22 h, then allowed to cool to room temperature and the solvents removed in vacuo. The residue was partitioned between EtOAc (2×400 ml) and water (400 ml). The organic solution was dried (Na2SO4) and the solvent was removed in vacuo. Purification by Biotage™ chromatography (4×90 g Si column) eluted with 9:1 to 8:1 EtOAc:cyclohexane afforded the title compound as a yellow oil (14.78 g).

reactant | 3-bromo-2-methylaniline | 0.0806 mol, 15 g | BrC=1C(=C(N)C=CC1)C | C7H8BrN
reactant | 4-methylphenylboronic acid | 0.0886 mol, 12.05 g | CC1=CC=C(C=C1)B(O)O | C7H9BO2
reactant | sodium carbonate | 0.2095 mol, 22.2 g | C([O-])([O-])=O.[Na+].[Na+]
solvent | 1,2-dimethoxyethane | 330 ml | COCCOC | C4H10O2
solvent | water | 165 ml | O | H2O
catalyst | tetrakis(triphenylphosphine) palladium (0) | 1.61 mmol, 1.86 g | [Pd].C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1
product | 2,4′-Dimethyl-1,1′-biphenyl-3-ylamine | 14.78 g | CC1=C(C=CC=C1N)C1=CC=C(C=C1)C | C14H15N
